USRE030887
A total of 1.1 moles of bis(2-chloroethyl) phosphite was reacted with 2.1 moles of carbon tetrachloride in the presence of 2 mls. of triethylamine. The bis(2-chloroethyl) phosphorochloridate thus formed was directly reacted with 0.5 mole of hydroquinone in the presence of 1.1 moles of pyridine. The reaction product was washed with aqueous sulfuric acid, water, and finally with aqueous ammonium hydroxide. After evaporating the carbon tetrachloride solvent and the chloroform which was formed, a 94% yield of product was obtained. This product had a refractive index (nD20) of 1.5093, and was identified by IR as tetrakis (2-chloroethyl) p-phenylene diphosphate. Upon analysis, the product was found to contain 28.05% chlorine and 12.55% phosphorus (compared to theoretical calculated percentages in

reactant | bis(2-chloroethyl) phosphite | 1.1 moles | P(OCCCl)(OCCCl)[O-]
reactant | carbon tetrachloride | 2.1 moles | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | bis(2-chloroethyl) phosphorochloridate | P(OCCCl)(OCCCl)(=O)Cl | C4H8Cl3O3P
